* Z:\mnt\spice-netlists\LT6018_INA_.asc
XU3 N004 N003 OUT +V -V LT1678
V1 +V 0 15
V3 -V 0 -15
V4 IN N005 SINE(0 .01 10K)
R8 OUT N003 5.11K
R9 0 N004 5.11K
R10 N003 N002 1.00K
R11 N004 N007 1.00K
R12 N001 P001 22.1
R13 P001 N006 22.1
R3 N002 N001 432
R4 N007 N006 432
VCOM N005 0 3
E1 N008 N005 IN N005 -1
XU1 IN N001 +V -V N002 +V 0 LT6018
XU2 N008 N006 +V -V N007 +V 0 LT6018
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2017 Linear Technology Inc. All rights reserved.
* LT6018 - Ultralow Disortion, Ultralow Noise Precision Op Amp\nLT1678 - Low Noise RR Precision Op Amp\nLow Noise, High CMRR Instrumentation Amplifier\nInput: +/- 15 V
.tran 10m
.lib LTC1.lib
.lib LTC2.LIB
.backanno
.end
